US05387601
(iv) diethyl [2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylmalonate
To dry dimethylformamide (50 mL) under argon was added sodium hydride (0.53 g, 0.022 mol) followed by diethyl benzyl malonate (5.51 g, 0.022 mol) in dimethylformamide (10 mL) at 0° C. The mixture was stirred at ambient temperature for one hour. A solution of 2-n-butyl-1-(2-chlorophenyl)methyl-5-chloromethyl-1H-imidazole hydrochloride (3.5 g, 0.0105 mol) in dimethylformamide (40 mL) was added over 5 minutes. The reaction mixture was stirred at 25° C. for 18 hours, then partitioned between water and methylene chloride. The organic layer was washed with water, dried, and concentrated. The crude product was flash chromatographed over silica gel to give 4.54 g (85%) of the title compound as an oil.

reactant | sodium hydride | 0.022 mol, 0.53 g | [H-].[Na+]
reactant | diethyl benzyl malonate | 0.022 mol, 5.51 g | CCOC(=O)C(CC1=CC=CC=C1)C(=O)OCC | C14H18O4
reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-5-chloromethyl-1H-imidazole hydrochloride | 0.0105 mol, 3.5 g | Cl.C(CCC)C=1N(C(=CN1)CCl)CC1=C(C=CC=C1)Cl
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | diethyl [2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylmalonate | 4.54 g, 85% | C(CCC)C=1N(C(=CN1)C(C(=O)OCC)(C(=O)OCC)CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C28H33ClN2O4
